US07384934B2
(S)-6-Fluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Suspend 6-fluoro-2-methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-thione (500 mg, 1.9 mmol) in dichloromethane (30 ml), stir under nitrogen and cool in an ice/water bath. Add methyl trifluoromethanesulfonate (500 μl), and stir overnight. Concentrate the reaction mixture under reduced pressure, take up in pyridine (10 ml) and add (S)-2-(2-methoxyethyl)piperazine (400 mg, 2.78 mmol) and stir the reaction mixture under nitrogen and heat at 90° C. for three days. Concentrate the reaction mixture under reduced pressure and purify by flash column chromatography on silica gel (eluent dichloromethane/methanol) to give the desired as a yellow solid 727 mg: Mass Spectrum (FIA) 375 (M+1).

reactant | 6-fluoro-2-methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-thione | 1.9 mmol, 500 mg | FC=1C=CC2=C(NC=3SC(=CC3C(N2)=S)C)C1 | C12H9FN2S2
reactant | methyl trifluoromethanesulfonate | 500 μl | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | (S)-2-(2-methoxyethyl)piperazine | 2.78 mmol, 400 mg | COCC[C@@H]1NCCNC1 | C7H16N2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (S)-6-Fluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C)C1 | C19H23FN4OS
